US07612114B2
3-[3-Fluoro-4-(2-piperidin-1-ylethoxy)benzylamino]-4-[2-(4-hydroxyphenyl)vinyl]phenol
Synthesized from acetic acid 4-[2-(4-acetoxy-2-aminophenyl)vinyl]phenyl ester (300 mg) and 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoyl chloride hydrochloride (370 mg) according to an analogous synthetic method to Example 152, the title compound (89 mg) was obtained.

reactant | acetic acid 4-[2-(4-acetoxy-2-aminophenyl)vinyl]phenyl ester | 300 mg | C(C)(=O)OC1=CC(=C(C=C1)C=CC1=CC=C(C=C1)OC(C)=O)N | C18H17NO4
reactant | 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoyl chloride hydrochloride | 370 mg | Cl.FC=1C=C(C(=O)Cl)C=CC1OCCN1CCCCC1
product | 3-[3-Fluoro-4-(2-piperidin-1-ylethoxy)benzylamino]-4-[2-(4-hydroxyphenyl)vinyl]phenol | 89 mg | FC=1C=C(CNC=2C=C(C=CC2C=CC2=CC=C(C=C2)O)O)C=CC1OCCN1CCCCC1 | C28H31FN2O3
